datasets/10k_Mayr_OG.csv
SMILES Labelled
"C/[CH:10]=[CH:11]/C.FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[CH:10]([CH+:11]C)[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2.C[C:11](=[CH2:10])[O:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([CH2:10][C:11](C)=[O+:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20;12=11,12"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20](C#N)[CH:21]=[C:22]=[N-:23])S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC[O:72][C:61]([CH-:10][C:81](C)=[O:82])=[O:62].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>CC[O:72][C:61]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[C:81](C)=[O:82])=[O:62] 10=20
"C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H:10][Si:11]([Cl:62])([CH3:72])[CH3:82]>>C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[Si+:11]([Cl:62])([CH3:72])[CH3:82] 10,11=10,20"
C[C:61]1=[N:10][C:64]2=[C:63](C=CC=C2)[NH:62]1.C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:31]3([CH2:20][N+:10]4=[C:61](C)[NH:62][C:63]5=[C:64]4C=CC=C5)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10=20
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[C:11](C)=[CH2:10]>>C[C+:11](C)[CH2:10][CH:20]1[CH:21]=[C:22](C2=CC=CC=C2)[O:23][C:32]2=[C:31]1C=CC=C2 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([P:10](C2=CC=C(N(C)C)C=C2)C2=CC=C(N(C)C)C=C2)C=C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>CN(C)C1=CC=C([P+:10](C2=CC=C(N(C)C)C=C2)(C2=CC=C(N(C)C)C=C2)[CH2:20][CH:21]=[C:22](C)[O-:23])C=C1 10=20;20,21=21,22;22,23=23"
"C1C[N:10]=[C:62]2[N:63](C1)CC[NH:73]2.CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>CC(C)[C:22](=[CH:21][CH:20]([N+:10]1=[C:62]2[N:63](CCC1)CC[NH:73]2)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.C[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95](C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1>>C1=CC=C([P:22](C2=CC=CC=C2)(=[N:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[O-:23])C=C1.C[C+:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95](C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].N#CC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>CC[O:33][C:22](=[C:21](C)[CH2:20][CH:10](C1=CC=C(C#N)C=C1)[C:11](=[N+:12]1CCCC1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[N+:61]#[C-:10].N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC(C)(C)[N+:61]#[C:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10=20;20,21=21,22;22,23=23"
"Br[C:12]1=[C:13]([NH2:14])[C:62](Br)=[CH:63][N:10]=[CH:11]1.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>C[N+]1=C([C:22](=[CH:21][CH:20]([N:10]2[CH:11]=[C:12](Br)[C:13](=[NH2+:14])[C:62](Br)=[CH:63]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.C[S+:61](C)[O-:10]>>C[S+:61](C)[O:10][CH:20]([CH:21]=[CH:22][N:23](CC1=CC=CC=C1)CC1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
